US07109354B2
A solution of 2-(4-bromo-butyl)-isoindole-1,3-dione (1.00 g, 3.54 mmol) in MeOH (60 mL) was treated with sodium thiomethoxide (0.298 g, 4.25 mmol) and heated to reflux 18 h. The solvent was evaporated in vacuo and the residue partitioned between EtOAc and water. The aqueous layer was further extracted with EtOAc (1×75 mL). The organic layers were dried over MgSO4 and concentrated in vacuo to afford the product 2-(4-methylsulfanyl-butyl)-isoindole-1,3-dione (0.803 g, 91%). 1H NMR (MeOD) 7.844 (m, 4H), 3.704 (t, 2H, J=7.2 Hz), 2.549 (t, 2H, J=7.2 Hz), 2.063 (s, 3H), 1.792 (quint, 2H, J=7.2 Hz), 1.731 (quint, 2H, J=7.2 Hz).

reactant | 2-(4-bromo-butyl)-isoindole-1,3-dione | 3.54 mmol, 1.00 g | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
reactant | sodium thiomethoxide | 4.25 mmol, 0.298 g | C[S-].[Na+]
solvent | MeOH | 60 mL | CO | CH4O
product | 2-(4-methylsulfanyl-butyl)-isoindole-1,3-dione | 0.803 g, 91% | CSCCCCN1C(C2=CC=CC=C2C1=O)=O | C13H15NO2S
